US06355799B1
Preparation of 4-chloro-2-fluoro-5-methyl-N-phenoxycarbonylaniline
4-Chloro-2-fluoro-5-methylaniline (5 g, 31.4 mmol) was dissolved in tetrahydrofuran (100 ml) and potassium carbonate (6.0 g, 37.7 mmol) and phenyl chloroformate (5.9 g, 37.7 mmol) were added. Solution was refluxed for 3 hr and the solvent was removed under reduced pressure. Product was purified by column chromatography on silica gel (eluent, methylene chloride:hexane, 6:4; 7.15 g).

reactant | 4-Chloro-2-fluoro-5-methylaniline | 31.4 mmol, 5 g | ClC1=CC(=C(N)C=C1C)F | C7H7ClFN
reactant | potassium carbonate | 37.7 mmol, 6.0 g | C([O-])([O-])=O.[K+].[K+]
reactant | phenyl chloroformate | 37.7 mmol, 5.9 g | ClC(=O)OC1=CC=CC=C1 | C7H5ClO2
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | 4-chloro-2-fluoro-5-methyl-N-phenoxycarbonylaniline | ClC1=CC(=C(NC(=O)OC2=CC=CC=C2)C=C1C)F | C14H11ClFNO2
